US07456164B2
Intermediate 110: 4-methyl-1-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-Pyran-4-yl}methyl)-1H-imidazole-2-thiol
2-Aminopropionaldehyde dimethyl acetal (0.2 g, 1.7 mmol), thiocarbonyldiimidazole (0.36 g, 2.0 mmol) and triethylamine (0.23 ml, 1.7 mmol) were stirred in DMF (2.0 ml) at ambient temperature for 30 minutes before heating to 50° C. for 18 hours. {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (540 mg, 1.7 mmol) was added and stirred at ambient temperature for 4 hours. 2M HCl (6 ml) was added, stirred at 70° C. for 18 hours, then c.HCl (1.0 ml) was added and the mixture stirred at 110° C. for 18 hours. The reaction mixture was cooled and partitioned between ethyl acetate (100 ml) and dilute aqueous sodium carbonate (50 ml). The organics were dried over Na2SO4 and concentrated in vacuo to give the title compound as a grey solid (600 mg, 84%). LRMS ESI+ m/z 416 [M+H]+.

reactant | 2-Aminopropionaldehyde dimethyl acetal | 1.7 mmol, 0.2 g | COC(C(C)N)OC | C5H13NO2
reactant | thiocarbonyldiimidazole | 2.0 mmol, 0.36 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | triethylamine | 1.7 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 1.7 mmol, 540 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | HCl | 2M, 6 ml | Cl | ClH
reactant | HCl | 1.0 ml | Cl | ClH
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | 4-methyl-1-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-Pyran-4-yl}methyl)-1H-imidazole-2-thiol | 600 mg, 84% | CC=1N=C(N(C1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1)S | C23H33N3O2S
